US08211884B2
A mixture of 4-{4-[(2-Phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester (1.64 g, 3.1 mmol) in methanol (50 mL) and hydrogen chloride in dioxane (4M, 10 mL, 40 mmol) was stirred at room temperature for 24 hr. The solvents were removed under vacuum to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-[1,4]diazepan-1-yl-phenyl)-amide hydrochloride salt (1.57 g, 99% yield) as a white solid. ES-MS for the neutral form C22H21F3N4O2 calcd. (m/e) 430, observed 431 (M+H).

reactant | 4-{4-[(2-Phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 3.1 mmol, 1.64 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C27H29F3N4O4
reactant | dioxane | 40 mmol, 4M, 10 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-[1,4]diazepan-1-yl-phenyl)-amide hydrochloride salt | 1.57 g, 99% yield | Cl.N1(CCNCCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | InChI=1S/C22H21F3N4O2.ClH/c23-22(24,25)19-18(28-21(31-19)15-5-2-1-3-6-15)20(30)27-16-7-9-17(10-8-16)29-13-4-11-26-12-14-29;/h1-3,5-10,26H,4,11-14H2,(H,27,30);1H
